US06645990B2
5-{4-[3-(6-Piperidin-ylmethylpyridin-2-yl)-ureido]thiazol-2-yl}-indole-1-carboxylic Acid Tert-Butyl Ester
To a solution of 5-(4-carboxy-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester (2.65 g, 7.69 mmol), molecular sieves, and 100 mL of dry toluene was added TEA (1.6 mL, 11.5 mmol). The resulting solution was stirred for 20 min then DPPA (2.5 mL, 11.6 mmol) was added and the resulting solution was stirred at 80° C. for 40 min. 6-Piperdin-1-ylmethyl-pyridin-2-ylamine (1.64 g, 8.6 mmol) and pyridine (1.0 mL, 12.4 mmol) were added and the mixture was stirred at 80° C. for another 14 h. The molecular sieves were filtered off and washed with CH2Cl2 and MeOH. The filtrate was concentrated in vacuo and the resulting residue was purified by flash chromatography on silica gel using 3% MeOH/CH2Cl2 to give a brown solid. MS m/z: 533 (M+1). Calc'd for C28H32N6O3S-532.66.

reactant | 5-(4-carboxy-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester | 7.69 mmol, 2.65 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1SC=C(N1)C(=O)O | C17H16N2O4S
reactant | DPPA | 11.6 mmol, 2.5 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 6-Piperdin-1-ylmethyl-pyridin-2-ylamine | 8.6 mmol, 1.64 g | N1(CCCCC1)CC1=CC=CC(=N1)N | C11H17N3
reactant | pyridine | 12.4 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[3-(6-Piperidin-ylmethylpyridin-2-yl)-ureido]thiazol-2-yl}-indole-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CN1CCCCC1 | C28H32N6O3S
